US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-(2-methoxyethoxy)aniline were reacted to produce N2,N4-bis[3-(2-methoxyethyl)oxyphenyl]-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.96 (d, 1H, J=2.9 Hz), 7.36 (t, 1H, J=1.7 Hz), 7.28 (t, 1H J=1.7 Hz), 7.25–7.06 (m, 4H), 6.98 (br s, 1H), 6.75 (d, 1H, J=2.3 Hz), 6.70 (dd, 1H, J=1.7 and 8.2 Hz), 6.58 (dd, 1H, J=1.7 and 8.2 Hz), 4.08–4.03 (m, 4H), 3.74–3.69 (m, 4H), 3.44 (s, 3H), 3.43 (s, 3H); LCMS: ret. time: 21.01 min.; purity: 97%; MS (m/e): 429 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-(2-methoxyethoxy)aniline | COCCOC=1C=C(N)C=CC1 | C9H13NO2
product | N2,N4-bis[3-(2-methoxyethyl)oxyphenyl]-5-fluoro-2,4-pyrimidinediamine | COCCOC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)OCCOC)F | C22H25FN4O4
